US07582636B2
3-{4-[2-(4-tert-Butyl-phenyl)-imidazo[1,2-a]pyridin-5-yl]-piperazin-1-ylmethyl}-pyrido[2,3-b]pyrazine:
Crude 2-(4-tert-Butyl-phenyl)-5-piperazin-1-yl-imidazo[1,2-a]pyridine (0.100 g, 0.298 mmol) and pyrido[2,3-b]pyrazine-3-carbaldehyde (0.062 g, 0.378 mmol) was dissolved in NMP (5 mL). The mixture was treated with 3 drops of glacial acetic acid, followed by sodium triacetoxyborohydride (0.126 g, 0.596 mmol.) The mixture was stirred at room temperature overnight and then purified by semipreparative RP-HPLC (Method C) followed by basification as in example 18 to obtain 0.0155 g of the title compound (11%). HPLC (Method B): r.t.=9.0 min., purity 85.2% at 210-370 nm, 81.1% at 252 nm. HRMS: calcd for C29H31N7+H+, 478.27137; found (ESI, [M+H]+), 478.271.

reactant | 2-(4-tert-Butyl-phenyl)-5-piperazin-1-yl-imidazo[1,2-a]pyridine | 0.298 mmol, 0.100 g | C(C)(C)(C)C1=CC=C(C=C1)C=1N=C2N(C(=CC=C2)N2CCNCC2)C1 | C21H26N4
reactant | pyrido[2,3-b]pyrazine-3-carbaldehyde | 0.378 mmol, 0.062 g | N1=C2C(=NC(=C1)C=O)N=CC=C2 | C8H5N3O
reactant | sodium triacetoxyborohydride | 0.596 mmol, 0.126 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
product | 3-{4-[2-(4-tert-Butyl-phenyl)-imidazo[1,2-a]pyridin-5-yl]-piperazin-1-ylmethyl}-pyrido[2,3-b]pyrazine | 0.0155 g, 11% | C(C)(C)(C)C1=CC=C(C=C1)C=1N=C2N(C(=CC=C2)N2CCN(CC2)CC2=CN=C3C(=N2)N=CC=C3)C1 | C29H31N7
